data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9392,"CC(=O)O[BH-](OC(C)=O)OC(C)=O.CC(=O)[O:1][H:2].O.O=[N+]([O-])C1=CC=C(N2CC[N:3]([C:4]3=[CH:5]C4CC(C4)C3)CC2)C=C1.[Na+]|(3, 4);((4, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3589,"C[C:1](C)=[O:2].O=[N+]([O-])[CH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5940,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.COC1=C(CC2CCC(OC)([OH+:2][H:3])O2)C=CC(C)=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4849,"CC(=O)C1=C[C:1](C(C)C)([H:2])[CH+:3]O1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3485,"CCO.NCCN.NCC[NH:1][C:2](C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)[OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1366,"C1=CC=NC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(Br)C=C([CH:1]([O:2]CC(C)(C)CO)[OH2+:3])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,736,"CC1=CC=C(S(=O)(=O)[O-])C=C1.C[O+:1]=[C:2]1C(C2CCCCC2)=C[C:3]2(C[CH2:4]2)[CH:5]=[CH:6]1.OC=[O:7]|(7, 4);((4, 3), 5);((5, 6), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5760,"CCCC[O][Ti-]([O]CCCC)([O]CCCC)([O]CCCC)[O]C(C=CC=CI)CC(C)=CC(OC)=[O+:1][Si-:2](C)(C)(C)OCCCC|((2, 1), 1)"
train,pmechdb_split_0,0,4524,"CCN(CC)CC.CCO.COC1=CC=C(C(=O)C2=C3NCCC[N:1]3[C:2]3([OH:3])C(C4=C(C)NC5=C4C=CC=C5)=CC(=O)CC23)C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,57,"CC[C:1]([N+]1=CN(C)C=C1)([O-:2])[O:3]C1=CC=C([N+](=O)[O-])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,821,"C1=CC=[NH+]C=C1.C1CCOC1.O=C(CCl)NC1=C(N[C:1](C2=CC=CO2)([O-:2])[Cl:3])C2=C(C=C1)C(=O)C1=C(C=CC=C1)C2=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5389,"C1C[N:1]([C:2]2([OH2+:3])CCC3(CC2)OCCO3)CCO1.CC1=CC=C(S(=O)(=O)[O-])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8859,"CC[S+:1](CC=C[O-])[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6356,"CCO[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,8996,"CC[C:1]#[C:2]CC(CC(C)C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7390,"OCCC=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4579,"OCCCCC(O)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8981,"CC[NH:1]CC.[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6654,"C[CH:1]=[O:2].C[N+](C)(C)C[CH:3]=[CH:4][O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7737,"CC(C)[O-].CCCCCC1CCCC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3805,"C1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4704,"CC#CC(C)(N(CC)CC)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6199,"C1CCOC1.CC1=CN=C(C2(O)CC[C:1]3(CC2)[OH+:2]CC[O:3]3)S1.O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3829,"CS(C)=O.O=C1OC2=C(C=CC(O)=C2)C2C3=C(C=C4OCOC4=C3)CC12C(=O)[O:1][CH3:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2673,"CCC.[Li][O+](CC(C(C)C)[CH2-:1])[Li:2]|(1, 2)"
train,pmechdb_split_0,0,8874,"O.O=C[O-:1].OCCCOC(CCC1=C(Br)C=NC=N1)[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3372,"[Li][O:1][CH:2]=[CH2:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7672,"CC(C)=O.CC1=CC=C(C2CC[C:1]([OH:2])([OH+:3]CCO)CC2)C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9959,"C[C+:1]=O.O=S(=O)(O)C1=CC=C2C=C[CH:2]=[CH:3]C2=C1|((2, 3), 1)"
train,pmechdb_split_0,0,9818,"C[C:1](O)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,964,"CC(=O)[O-].CC1=NC(O)=C([N+](=O)[O-])C(O)=N1.CC1=NC(O)=CC(O)=N1.O.O=S(=O)([O-])O.O=[N+:1]([OH2+:2])[O-:3].OC1=CC(O)=C2C=CC=CC2=N1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1699,"O[CH+:1][NH2:2]|(2, 1)"
train,pmechdb_split_0,0,2198,"C[C:1](CC[C:2](=[CH2:3])[OH:4])=[OH+:5]|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,2422,"C1CCNC1.C=C1CCCC2C[C:1]([N:2]3CCCC3)([OH2+:3])CCC12|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1193,"CP(C)(=O)[CH2:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8933,"C1=C[N:1]=CN1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7434,"CC[CH:1]([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4947,"CC[C:1](C)([C:2](C)=[C:3](C)[O-:4])[OH:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,8737,"CC(CO[Si](C)(C)C(C)(C)C)(C(=O)O[P:1](OC1=CC=CC=C1)(OC1=CC=CC=C1)([N:2]=[N+]=[N-])[O-:3])C1=CC=CC=C1.CC[NH+](CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8288,"CC(C)[O-].CCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7329,"CC(C)[CH:1](C)[BH2-:2][O:3][OH:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5449,"CCN(CC)[C:1](=[CH:2]CC#N)[O-:3].[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9482,"C[C:1]1([OH2+:2])CCC(=O)C1|((1, 2), 2)"
train,pmechdb_split_0,0,8156,"CC(=O)[O-].C[C:1]1([OH2+:2])CC2=C(CCCC2=O)[NH:3]1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4970,"OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC2(CC1)OCC[O:1]2.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9951,"CCC(=O)O[C:1]1=[CH:2]C=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
